2149-09-13 05:55:00 Physician Resident Progress Note
Chief Complaint: fever
   24 Hour Events:
   pt admitted from ED in setting of sepsis/severe sepsis
   received 2.5 L NS plus maintenance fluids overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNeurontin (Oral) (Gabapentin)
   tremor
   malaise
   Last dose of Antibiotics:
   Cefipime - [**2149-9-12**] 10:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-9-12**] 11:15 PM
   Dextrose 50% - [**2149-9-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, Weight loss, 60 pound
   weight loss over 4 months
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-9-13**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.5
C (95.9
   HR: 64 (53 - 75) bpm
   BP: 113/47(64) {84/26(47) - 121/56(67)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 51.5 kg
   Height: 70 Inch
    CVP: 5 (5 - 8)mmHg
   Total In:
                                                                  2,570 mL
                                                                  2,085 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,100 mL
                                                                  2,035 mL
   Blood products:
   Total out:
                                                                    111 mL
                                                                     33 mL
   Urine:
                                                                     61 mL
                                                                     33 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,459 mL
                                                                  2,052 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin, emaciated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: one toe on left foot, rest are necrotic, open ulcer
   with eschar over right medial malleolus
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   129
   10.8
   36 mg/dL
   2.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   16 mg/dL
   113 mEq/L
   144 mEq/L
   37.3
   24.6
        [image002.jpg]
                             [**2149-9-12**]  10:45 PM
   Cr
   2.2
   Glucose
   38
   Other labs: Lactic Acid:1.2 mmol/L, Ca++:7.0 mg/dL, Mg++:1.2 mg/dL,
   PO4:3.5 mg/dL
   ASSESSMENT AND PLAN: 82yo M with h/o ESRD on HD admitted with fevers
   and sepsis, likely [**2-10**] line infection.
   .
   #. Sepsis: Multiple sources for his infection including indwelling
   line, G-tube placed recently, PNA, chronic osteomyelitis of right
   ankle. Most likely is either osteomyelitis as recently d/c'd abx vs
   line infection.
   - Follow up cultures drawn in HD outside, and here (post abx)
   - continue broad spectrum antibiotics with vanc (has h/o MRSA)/CFP ->
   will defer pseudomonal extended coverage, as PNA less likely than line
   infection.
   - IVF as needed to maintain pressures while transducing CVP to goal of
   12 as patient has h/o CHF will be more careful with IVF than usual ->
   current CVP 10, will give extra 500 NS in addition to maintenance D5NS
   at 100 cc/hr
   - follow up urine culture taken in ED ->currently covered for UTI with
   CFP
   - Will need line pulled likely today.
   - f/u stool studies
   - f/[**Location 39**] CT read
   .
   #. ESRD on HD:
   - Renal aware patient is here; will f/u recs regarding pulling HD line
   - No need for HD currently
   - Continue MWF schedule
   - Renally dose meds
   - Continue home medications
   .
   #. PVD: Patient has h/o severe PVD with multiple amputations and
   chronic osteomyelitis in recent past.
   - Appreciate vascular recs
   - Will Rx with abx as above
   - Will continue home pain regimen with oxycodone, tylenol, lyrica.
   Morphine IV for breakthrough pain
   .
   #. HTN: Patient has h/o HTN but p/w borderline hypotension and possible
   septic shock, now normotensive
   - Will cont to hold anti-hypertensives for now pending treatment of
   sepsis.
   .
   #. Systolic CHF: Patient is currently hypovolemic with septic
   physiology.
   - Will hold lasix, diovan, and beta blocker as above
   - Will monitor CVP to ensure do not over-rescusitate given patient does
   not want to be intubated.
   .
   #. Transaminitis: Very mild and could be [**2-10**] hypoperfusion in setting
   of transient hypotension in ED.
   - will hold statin
   - trend LFTs
   - consider RUQ U/S if does not resolve with fluids
   .
   #. Erythrocytosis: Hct is extremely high for him given baseline of
   mid-thirties on most recent hospitalization. Suspect hemoconcentration
   from combination of dialysis and sepsis.
   - will hydrate as above
   - will monitor daily hcts
   .
   #. Thrombocytopenia: Unclear etiology given with infection usually get
   reactive thrombocytosis. Could be from nutritional deficiency given
   severe wasting and difficulty eating over last several months.
   - Will monitor plt count daily
   - Transfuse for plt<10K or <50K with evidence of bleeding.
   .
   #. Nutrition: Patient has recently been worked up for long h/o
   dysphagia which is likely [**2-10**] muscle weakness of deconditioning
   accompanied by severe reflux. Is now s/p G-tube placement for better
   nutrition supposed to start TFs today but because was at hospital did
   not get recs from VNA.
   - will have nutrition consult in am
   - NPO except meds for now given severe aspiration risk
   - Aspiration precautions
   .
   #. FEN: IVF to maintain CVP~10. E- per HD N- TF in am pending Nutrition
   recs
   #. PPX: Hep SC
   #. ACCESS: RIJ CVL
   #. COMMUNICATION: With patient and wife
   #. CODE: DNR/DNI
   #. DISPO: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-9-12**] 07:48 PM
   Dialysis Catheter - [**2149-9-12**] 07:49 PM
   20 Gauge - [**2149-9-12**] 07:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 1249**] has had rescucitation for sepsis likely related to his HD
   catheter. We will treat through the line and hope to salvage it ( per
   Dr [**Last Name (STitle) 1458**]. He appears comfortable laying flat in bed with a CVP of
   10 and on no pressors at this time. If he should clear his bacteremia
   and remain stable off pressors, he will complete a full course of
   antibiotics on the floor and as an outpatient.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2149-9-13**] 17:53 ------

2149-09-14 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CT of abdomen showed small pneumoperitoneum (still wet read).
   Blood cx x1 positive for gram negative organism (at [**Hospital1 7**]), Bcx from [**9-12**]
   at HD [**2-12**] positive for GNR: will have [**Last Name (un) 270**] and species on monday.
   (micro lab at [**Hospital3 9869**])
   Allergies:
   Neurontin (Oral) (Gabapentin)
   tremor
   malaise
   Last dose of Antibiotics:
   Cefipime - [**2149-9-13**] 10:04 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-9-14**] 12:48 AM
   Dextrose 50% - [**2149-9-14**] 05:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 59 (53 - 72) bpm
   BP: 125/44(64) {90/36(51) - 133/64(81)} mmHg
   RR: 9 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 51.5 kg (admission): 51.5 kg
   Height: 70 Inch
    CVP: 7 (4 - 13)mmHg
   Total In:
                                                                  5,466 mL
                                                                    412 mL
   PO:
                                                                    320 mL
                                                                     90 mL
   TF:
                                                                     18 mL
                                                                    100 mL
   IVF:
                                                                  4,998 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                    273 mL
                                                                     70 mL
   Urine:
                                                                    273 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,193 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   141 K/uL
   11.9 g/dL
   41 mg/dL
   2.2 mg/dL
   22 mEq/L
   3.8 mEq/L
   21 mg/dL
   113 mEq/L
   142 mEq/L
   41.6 %
   22.5 K/uL
        [image002.jpg]
                             [**2149-9-12**]  10:45 PM
                             [**2149-9-13**]  04:37 AM
                             [**2149-9-14**]  04:18 AM
   WBC
   24.6
   22.5
   Hct
   37.3
   41.6
   Plt
   129
   141
   Cr
   2.2
   2.0
   2.2
   Glucose
   38
   36
   41
   Other labs: PT / PTT / INR:16.6/39.2/1.5, Differential-Neuts:92.6 %,
   Lymph:4.0 %, Mono:3.2 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Ca++:7.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 82yo M with h/o ESRD on HD admitted with fevers
   and sepsis, likely [**2-10**] line infection.
   .
   #. Sepsis: Multiple sources for his infection including indwelling
   line, G-tube placed recently, PNA, chronic osteomyelitis of right
   ankle. Most likely is either osteomyelitis as recently d/c'd abx vs
   line infection.
   - Follow up cultures drawn in HD outside, and here (post abx)
   - continue broad spectrum antibiotics with vanc (has h/o MRSA)/CFP ->
   will defer pseudomonal extended coverage, as PNA less likely than line
   infection.
   - IVF as needed to maintain pressures while transducing CVP to goal of
   12 as patient has h/o CHF will be more careful with IVF than usual ->
   current CVP 10, will give extra 500 NS in addition to maintenance D5NS
   at 100 cc/hr
   - follow up urine culture taken in ED ->currently covered for UTI with
   CFP
   - Discuss w/ renal over possible d/c of femoral line. Leaving  in for
   now.
   - f/u stool studies
   - f/[**Location 39**] CT read
   .
   #. ESRD on HD:
   - Renal aware patient is here; will f/u recs regarding pulling HD line
   - No need for HD currently
   - Continue MWF schedule
   - Renally dose meds
   - Continue home medications
   .
   #. PVD: Patient has h/o severe PVD with multiple amputations and
   chronic osteomyelitis in recent past.
   - Appreciate vascular recs
   - Will Rx with abx as above
   - Will continue home pain regimen with oxycodone, tylenol, lyrica.
   Morphine IV for breakthrough pain
   .
   #. HTN: Patient has h/o HTN but p/w borderline hypotension and possible
   septic shock, now normotensive
   - Will cont to hold anti-hypertensives for now pending treatment of
   sepsis.
   .
   #. Systolic CHF: Patient is currently hypovolemic with septic
   physiology.
   - Will hold lasix, diovan, and beta blocker as above
   - Will monitor CVP to ensure do not over-rescusitate given patient does
   not want to be intubated.
   .
   #. Transaminitis: Very mild and could be [**2-10**] hypoperfusion in setting
   of transient hypotension in ED.
   - will hold statin
   - trend LFTs
   - consider RUQ U/S if does not resolve with fluids
   .
   #. Erythrocytosis: Hct is extremely high for him given baseline of
   mid-thirties on most recent hospitalization. Suspect hemoconcentration
   from combination of dialysis and sepsis.
   - will hydrate as above
   - will monitor daily hcts
   .
   #. Thrombocytopenia: Unclear etiology given with infection usually get
   reactive thrombocytosis. Could be from nutritional deficiency given
   severe wasting and difficulty eating over last several months.
   - Will monitor plt count daily
   - Transfuse for plt<10K or <50K with evidence of bleeding.
   .
   #. Nutrition: Patient has recently been worked up for long h/o
   dysphagia which is likely [**2-10**] muscle weakness of deconditioning
   accompanied by severe reflux. Is now s/p G-tube placement for better
   nutrition supposed to start TFs today but because was at hospital did
   not get recs from VNA.
   - will have nutrition consult in am
   - NPO except meds for now given severe aspiration risk
   - Aspiration precautions
   .
   #. FEN: IVF to maintain CVP~10. E- per HD N- TF in am pending Nutrition
   recs
   #. PPX: Hep SC
   #. ACCESS: RIJ CVL
   #. COMMUNICATION: With patient and wife
   #. CODE: DNR/DNI
   #. DISPO: ICU for now.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2149-9-13**] 10:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-9-12**] 07:48 PM
   Dialysis Catheter - [**2149-9-12**] 07:49 PM
   20 Gauge - [**2149-9-12**] 07:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: